US05998436
Synthesis of 2-amino-6-t-butylamino-3-cyano-5-fluoropyridine
To 500 mg of 2-benzylamino-6-t-butylamino-3-cyano-5-fluoropyridine were added 3 ml acetic acid and 0.5 ml ethanol, and then, 10 microspatulas of palladium black, and the mixture was stirred under hydrogen atmosphere at 60° C. for 2 days. The catalyst was removed with a membrane filter, and the solvent of the filtrate was distilled off. To the residue was added chloroform, and the mixture was washed with aqueous solution of sodium hydrogencarbonate. The organic layer was collected, dried over magnesium sulfate. The solvent was distilled off to obtain 300 mg of the title compound.

reactant | 2-benzylamino-6-t-butylamino-3-cyano-5-fluoropyridine | 500 mg | C(C1=CC=CC=C1)NC1=NC(=C(C=C1C#N)F)NC(C)(C)C | C17H19FN4
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | [Pd] | Pd
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 2-amino-6-t-butylamino-3-cyano-5-fluoropyridine | 300 mg | NC1=NC(=C(C=C1C#N)F)NC(C)(C)C | C10H13FN4
